US07645753B2
Ethoxy-4′-fluoro-biphenyl-4-carbaldehyde
To a solution of (2-ethoxy-4′-fluoro-biphenyl-4-yl)-methanol (0.42 g, 1.71 mmol, 1.0 equiv) in dichloromethane (20 mL) was added activated MnO2 (2.97 g, 34.11 mmol, 20.0 equiv). The reaction mixture was stirred vigorously for 3 h at ambient temperature and then filtered through Hyflo Super Cel. The organic phase was concentrated by evaporation under reduced pressure and the crude reaction product purified with column chromatography on silica eluting with hexane/ethyl acetate (4:1) providing 0.33 g (79%) of the title compound. MS (EI): 244.1 [M]+.

reactant | (2-ethoxy-4′-fluoro-biphenyl-4-yl)-methanol | 1.71 mmol, 0.42 g, 1.0 equiv | C(C)OC1=C(C=CC(=C1)CO)C1=CC=C(C=C1)F | C15H15FO2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | MnO2 | 34.11 mmol, 2.97 g, 20.0 equiv | O=[Mn]=O
product | Ethoxy-4′-fluoro-biphenyl-4-carbaldehyde | 0.33 g, 79% | C(C)OC1=C(C=CC(=C1)C=O)C1=CC=C(C=C1)F | C15H13FO2
